US08980888B2
<Step 1> Synthesis of 4-(6-cyanopyridin-2-yl)-1-methyl-1H-pyrazole-5-carboxylic acid
Using 6-bromopicolinonitrile (0.73 g) and 4-iodo-1-methyl-1H-pyrazole-5-carboxylic acid (1 g), the title compound (4.7 mg) was obtained in the form of a colorless solid by the same method as that of (Example 3.22) <Step 1> or a method equivalent thereto.

reactant | 6-bromopicolinonitrile | 0.73 g | BrC1=CC=CC(=N1)C#N | C6H3BrN2
reactant | 4-iodo-1-methyl-1H-pyrazole-5-carboxylic acid | 1 g | IC=1C=NN(C1C(=O)O)C | C5H5IN2O2
product | 4-(6-cyanopyridin-2-yl)-1-methyl-1H-pyrazole-5-carboxylic acid | 4.7 mg | C(#N)C1=CC=CC(=N1)C=1C=NN(C1C(=O)O)C | C11H8N4O2
